data/oMe_Silver.jsonl
{"reaction_id": "NR-240_1-c1ccccc1_2-C#N_3-C1CCC1_4-C_5-C(c1ccccc1)c2ccccc2","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["c1ccccc1C(=O)C(C#N)[N+](C1CCC1)(C)C(c1ccccc1)c2ccccc2","[Li]N(C(C)C)C(C)C"],"products_smiles": ["c1ccccc1C(=O)C(C#N)(C(c1ccccc1)c2ccccc2)N(C1CCC1)(C)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1C([O-])=C(C#N)[N+](C1CCC1)(C)C(c1ccccc1)c2ccccc2","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "c1ccccc1C(=O)C(C#N)(C(c1ccccc1)c2ccccc2)N(C1CCC1)(C)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
{"reaction_id": "NR-313_1-OC_2-c2ccccc2_3-C(=O)OC_4-Cl_5-N(=O)=O","level": "easy","name": "Ullmann Coupling","reactants_smiles": ["c1(OC)c(c2ccccc2)c(C(=O)OC)c(Cl)c(N(=O)=O)c1I"],"products_smiles": ["c1(OC)c(c2ccccc2)c(C(=O)OC)c(Cl)c(N(=O)=O)c1c2c(OC)c(c2ccccc2)c(C(=O)OC)c(Cl)c2(N(=O)=O)"],"conditions": "Cu","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(OC)c(c2ccccc2)c(C(=O)OC)c(Cl)c(N(=O)=O)c1[Cu]I","step_weight": 0,"rationale": "Cu(0) inserts into the aryl–iodine bond via oxidative addition because iodine is a good leaving group and the aryl–Cu bond is stabilized by π-backbonding from the aromatic ring."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "c1(OC)c(c2ccccc2)c(C(=O)OC)c(Cl)c(N(=O)=O)c1[Cu]","step_weight": 0,"rationale": "Single-electron transfer from Cu to the aryl fragment generates a reactive aryl radical, favored by the low ionization potential of Cu and the stability of the aryl radical through resonance."},{"step": 3,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(OC)c(c2ccccc2)c(C(=O)OC)c(Cl)c(N(=O)=O)c1[Cu](I)c2c(OC)c(c2ccccc2)c(C(=O)OC)c(Cl)c2(N(=O)=O)","step_weight": 0,"rationale": "A second oxidative addition occurs with another aryl iodide, driven by the high reactivity of the aryl radical and the good leaving ability of iodide, forming a bis-aryl copper(III) species."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(OC)c(c2ccccc2)c(C(=O)OC)c(Cl)c(N(=O)=O)c1c2c(OC)c(c2ccccc2)c(C(=O)OC)c(Cl)c2(N(=O)=O)","step_weight": 0,"rationale": "Reductive elimination from the Cu(III) complex forms the biaryl product, favored by the thermodynamic stability of the C–C bond and the regeneration of the lower oxidation state Cu catalyst."}],"description": "In the Ullmann coupling, copper mediates the formation of a biaryl bond from aryl iodides. Copper undergoes oxidative addition to the aryl halide, facilitates electron transfer, and couples two aryl groups via a second oxidative addition followed by reductive elimination, forming the C–C bond."}
